* 74LVC541A octal buffer, the output-enable half of it. TI SN74LVC541APWR.
*
* Behavioural, not vendor - see SOURCE.md. Only what the trip chain uses is
* here: an enable that puts the output into high impedance, and an output
* stage while it is not. No input threshold, no per-channel skew, no
* propagation delay on the data path - the trip deck drives a line that is
* already high and is interested only in when this part lets go of it.
*
*   tdis  disable_time_max, 7 ns
*   ilim  output_current_max, 24 mA
*
* **Letting go is the whole contribution.** What happens next - the line
* falling through its pull-down, or through the gate-kill transistor - is not
* this part's doing and is not modelled here, which is the point: the design
* comment at cpu1.py:1281 is that "the '541 going high-impedance is not the
* same event as the gate line going low", and a model that discharged the line
* itself would hide exactly that.
.subckt lvc541 oe a y vcc params: tdis=7n ilim=24m vil=0.8 vih=2.0

.param vmid = {(vil+vih)/2}

* The enable, delayed. High disables.
Bdis raw 0 V = 0.5 + 0.5*tanh(10*(v(oe) - vmid))
Tdis raw 0 dis 0 Z0=50 TD={tdis}
Rmdis dis 0 50

* The output stage, gated by it. Current-limited at the figure the datasheet
* gives, and at nothing else.
By 0 y I = (1 - v(dis)) * min(max(1.0*(v(a) - v(y)), -ilim), ilim)

* High impedance has to mean it: with the drive gated off, this is all that
* remains, and it is nine orders above the 10 k pull-down that does the work.
Rleak y 0 1e9

.ends lvc541
