* 74LVC1G74 used as a set-reset latch. TI SN74LVC1G74DCUR.
*
* Behavioural, not vendor - see SOURCE.md. This board ties D and C low and
* uses only ~PRE and ~CLR, so what is modelled is the two cross-coupled gates
* those two pins reach and nothing else: no clock, no data path, no setup or
* hold.
*
* **Cross-coupled rather than a delayed follower**, because the state is the
* point. A model that simply followed ~PRE would come out of a trip the moment
* the comparator released, which is the failure the latch exists to prevent,
* and the clear deck beside this one would then prove nothing at all.
*
*   tpre  preset_to_output_max, 5.9 ns
*   cref  delay_load_reference, the 50 pF that figure is measured into
*   vmeas delay_threshold, the 1.5 V it is measured at
*   ilim  output_current_max, 24 mA
*   vil   input_low_voltage_max, 0.8 V
*   vih   input_high_voltage_min, 2.0 V
.subckt lvc1g74 pre clr q qn vcc
+ params: tpre=5.9n cref=50p vmeas=1.5 ilim=24m vil=0.8 vih=2.0 tfit=6.6653n

* **`tfit` is solved, not derived, and the deck checks it every run.** The
* gate's ramp and the output stage's charging overlap rather than add, so
* there is no closed form relating the intrinsic delay to the 5.9 ns measured
* in the jig: 2.775 ns of gate delay, which is 5.9 less the 3.1 it takes to
* drive 50 pF to 1.5 V at 24 mA, comes out at 3.36 ns in the jig and not 5.9.
* What is here was found by bisection against the jig itself.
*
* A fitted constant in a model is a number that goes quietly wrong when
* something upstream of it moves - change `ilim` and this is silently
* mis-calibrated - so `trip_chain.cir.in` builds the datasheet's load circuit
* beside the real board and measures it, banded against the declared
* `preset_to_output_max`. If the fit drifts, that measurement says so before
* anything downstream of it is believed.
*
* **Most of the datasheet's 5.9 ns is the datasheet's own load.** SCES794E
* Figure 3 measures it into 50 pF with 500 ohm to ground, taken at 1.5 V, and
* driving 50 pF to 1.5 V at 24 mA is 3.1 ns on its own. What is intrinsic is
* the rest. A model handed 5.9 ns as a gate delay and then given this board's
* 4.5 pF on top would be charging TI's test jig twice.
*
* ~PRE reaches Q through one gate; the loop closes through the other, which is
* what holds the state and not what sets this delay.
.param vmid = {(vil+vih)/2}
.param rg   = 1k
.param tint = {tfit}
.param cg   = {tint/(rg*0.6931472)}

* Q = NAND(~PRE, ~Q) and ~Q = NAND(~CLR, Q). Both inputs low is the state this
* board can reach - a comparator asserting while firmware is clearing - and in
* a NAND latch that puts both outputs high, which is what `TRIP_N` reading "no
* break" while `TRIPPED` reads "tripped" means. The model reproduces it
* because it is the same two gates, not because anything here says so.
Bqa qa_raw 0 V = v(vcc) * (1 - (0.5+0.5*tanh(10*(v(pre)-vmid)))
+                            * (0.5+0.5*tanh(10*(v(qnb)-vmid))))
Rqa qa_raw qa {rg}
Cqa qa 0 {cg}

Bqnb qnb_raw 0 V = v(vcc) * (1 - (0.5+0.5*tanh(10*(v(clr)-vmid)))
+                              * (0.5+0.5*tanh(10*(v(qa)-vmid))))
Rqnb qnb_raw qnb {rg}
Cqnb qnb 0 {cg}

* The outputs, current-limited at the figure the datasheet gives and at
* nothing else. **This is what the deck is for on this part**: one Q drives
* both buffers' second enable and the gate-kill transistor's gate, and the
* design check gives each of them the full 24 mA by taking a max over them.
* Here they share it, because there is one source.
Bq  0 q  I = min(max(1.0*(v(qa)  - v(q)),  -ilim), ilim)
Bqn 0 qn I = min(max(1.0*(v(qnb) - v(qn)), -ilim), ilim)
Rleakq  q  0 1e9
Rleakqn qn 0 1e9

.ends lvc1g74
