* TLV3501 - push-pull rail-to-rail comparator, TI TLV3501AIDBVR.
*
* Behavioural, not vendor - see SOURCE.md for what it does and does not
* represent. Four declared figures shape it, all from parts.py:
*
*   vshift  input_offset_voltage + half input_hysteresis, as a static shift
*   tpd     propagation_delay_max, 7 ns at 20 mV of overdrive
*   cref    delay_load_reference, the 13 pF that 7 ns is measured into
*   rout    output_swing_from_rail / 1 mA = 50 ohm
*   isc     output_short_circuit_current, 74 mA
*
* **The load-dependent delay is deliberately not in here.** The datasheet's
* Figure 5 plots delay against capacitive load, and parts.py reduces it to a
* straight line - 40.2 ps per picofarad past a 13 pF reference - which
* `test_a_trip_stops_the_outputs_inside_the_budget` then extrapolates to the
* 137 pF of the trip bus, well past the 100 pF the fit was taken from. Putting
* that slope in this model would make the deck restate the check. What is here
* instead is the mechanism the slope is a fit *of*: an output stage with a
* resistance and a current ceiling. Whatever delay the bus adds, the simulator
* works out.
*
* So `tpd` is the datasheet's own figure at the datasheet's own 13 pF, and the
* deck subtracts nothing and adds nothing to it.
.subckt tlv3501 inp inn out vcc params: vshift=9.5m tpd=7n cref=13p rout=50 isc=74m

* **The datasheet's 7 ns is measured into the datasheet's own 13 pF**, so the
* intrinsic part of it is 7 ns less what this output stage takes to drive that
* load to half a swing. Subtracting it is what stops the model counting the
* reference load twice and arriving at 7.5 ns where the datasheet says 7.
*
* `rout*cref*ln 2` is the first-order figure; the current ceiling makes the
* first volt and a bit of the edge a ramp rather than an exponential, so the
* correction is approximate and the residual is measured rather than assumed.
* SOURCE.md records it.
.param tdint = {tpd - rout*cref*0.6931472}

* The decision. `tanh` rather than an ideal comparator because a step in a
* behavioural source is what makes ngspice give up; a hundred microvolts of
* transition width is sharp against six millivolts of offset and costs nothing
* in accuracy here.
Bdecide logic 0 V = v(vcc) * (0.5 + 0.5*tanh(1e4*(v(inp) - v(inn) - vshift)))

* The intrinsic delay, as a matched lossless line: the far end is terminated
* in the line's own impedance so nothing reflects, and what arrives there is
* what left, tpd later. An RC would have been the wrong shape - it would put a
* rise time on a delay.
Tdelay logic 0 delayed 0 Z0=50 TD={tdint}
Rmatch delayed 0 50

* The output stage. A resistance and a ceiling, and nothing about the load:
* 50 ohm across a 5 V rail would ask for 100 mA and this part's own absolute
* maximum is 74, so the ceiling binds on the first instant of an edge into
* anything capacitive - which is the instant the trip bus is.
Bdrive 0 out I = min(max((v(delayed) - v(out))/rout, -isc), isc)

* So the node is never floating when nothing else holds it.
Rleak out 0 1e9

.ends tlv3501
