* led12: LED branch current across the supply range.
*
* The design checks in hw/checks/ compute this current from a straight line
* through the LED's datasheet forward-voltage band. This does it again with a
* diode that actually curves. The two should agree; where they do not, one of
* them is wrong, and that is the point of running both.
*
* Every value below comes from the build. @path:end@ is an atopile instance
* path and which end of its resolved range to take.

.include ../models/led_red.lib

Vrail rail 0 DC 12

* Four branches. The first carries a zero-volt source as an ammeter; the others
* are identical and are here because they share the low-side switch, whose drop
* depends on the total.
Vsense rail n1 DC 0
R1 n1 a1 2200.0
D1 a1 ret LED_RED

R2 rail a2 2200.0
D2 a2 ret LED_RED

R3 rail a3 2200.0
D3 a3 ret LED_RED

R4 rail a4 2200.0
D4 a4 ret LED_RED

* The low-side FET, fully on. See models/SOURCE.md for why this is a resistor.
Rfet ret 0 7.5

* Swept a little past both ends: a measurement taken exactly at the edge of the
* sweep has nothing to interpolate against and ngspice reports it out of range.
.dc Vrail 10.600000000000001 13.4 0.05

* i(Vsense) is positive into the branch, so it reads negative here.
.meas dc i_branch_at_min_supply FIND i(Vsense) WHEN v(rail)=10.8
.meas dc i_branch_at_max_supply FIND i(Vsense) WHEN v(rail)=13.200000000000001
* The LED's own forward voltage is the difference between two nodes, which
* .meas cannot take directly, so it is measured in pieces and subtracted.
.meas dc tmp_a1_min FIND v(a1) WHEN v(rail)=10.8
.meas dc tmp_ret_min FIND v(ret) WHEN v(rail)=10.8
.meas dc v_led_at_min_supply PARAM='tmp_a1_min-tmp_ret_min'
.meas dc tmp_a1_max FIND v(a1) WHEN v(rail)=13.200000000000001
.meas dc tmp_ret_max FIND v(ret) WHEN v(rail)=13.200000000000001
.meas dc v_led_at_max_supply PARAM='tmp_a1_max-tmp_ret_max'
.meas dc v_fet_drop_at_max FIND v(ret) WHEN v(rail)=13.200000000000001

.end
